US06562828B1
4-Benzyloxycarbonylaminomethyl-4-ethoxycarbonylpiperidine-1-carboxylic Acid tert-Butyl Ester
To a solution of 1-tert-butoxycarbonyl-4-ethoxycarbonylpiperidin-4-ylacetic acid (1.6 g) and triethylamine (0.71 ml) in dimethylformamide (20 ml) was added diphenylphosphoryl azide (1.1 ml) at room temperature, and the mixture was stirred at 70° C. for 30 min and then at 90° C. for 10 min. Benzyl alcohol (0.58 ml) was added at the same temperature, and the mixture was stirred for 20 hours. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate and washed with 1N aqueous sodium hydroxide solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography and dried under reduced pressure to give the title compound (1.35 g).

reactant | 1-tert-butoxycarbonyl-4-ethoxycarbonylpiperidin-4-ylacetic acid | 1.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CC(=O)O | C15H25NO6
reactant | triethylamine | 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.1 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Benzyl alcohol | 0.58 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-Benzyloxycarbonylaminomethyl-4-ethoxycarbonylpiperidine-1-carboxylic Acid tert-Butyl Ester | 1.35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CNC(=O)OCC1=CC=CC=C1 | C22H32N2O6
